US08293768B2
A solution of ethyl 2-amino-4-methylthiazole-5-carboxylate (6.58 g, 35.00 mmol) and sodium hydroxide (5.40 g, 135.00 mmol) in the mixture of tetrahydrofuran (60 mL) and water (30 mL) was heated at reflux for 18 hours. The tetrahydrofuran was removed in vacuo, and the aqueous solution was neutralized with 5% HCl solution to pH 5-6. The precipitated solid was collected by filtration, washed with water and dried to afford 2-amino-4-methylthiazole-5-carboxylic acid as a white solid in 94% yield (5.20 g): 1H NMR (300 MHz, DMSO-d6) δ 7.63 (s, 2H), 2.30 (s, 3H); MS (ES+) m/z 159.1 (M+1).

reactant | ethyl 2-amino-4-methylthiazole-5-carboxylate | 35.00 mmol, 6.58 g | NC=1SC(=C(N1)C)C(=O)OCC | C7H10N2O2S
reactant | sodium hydroxide | 135.00 mmol, 5.40 g | [OH-].[Na+]
reactant | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | 2-amino-4-methylthiazole-5-carboxylic acid | 94% yield | NC=1SC(=C(N1)C)C(=O)O | C5H6N2O2S
